US04638067
To 2.0 (6.5 mmol) of ethyl 7-acetyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 50 ml of dimethylformamide was added 1.71 ml (1.25 eq) of bis-t-butoxydimethylaminomethane. The mixture was heated at 70° C. for 18 hours. The mixture was then concentrated and the residue treated with ether and filtered to give 1.95 g of 7-(2'-dimethylaminoethenyl)carbonyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester, mp 176°-179° C.

reactant | ethyl 7-acetyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | C(C)(=O)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)OCC)=O)F | C16H16FNO4
reactant | bis-t-butoxydimethylaminomethane | 1.71 ml, 1.25 eq | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-(2'-dimethylaminoethenyl)carbonyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | 1.95 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)C(=O)C=CN(C)C)CC | C19H21FN2O4
